US05025007
Step G: Preparation of 1-hydroxymethyl-3-methylcarbonyl-9-fluorenone
1-(2-Tetrahydropyranyl)oxymethyl-3-methylcarbonyl-9-fluorenone (197 mg) was dissolved in 1% H2SO4 (5 ml) and allowed to stand at room temperature for 0.5 hour. The reaction mixture was diluted with excess NaHCO3 soln (10%). The MeOH was removed under reduced pressure and the residue was extracted with EtOAc, dried and evaporated gave the product (135 mg).

reactant | 1-(2-Tetrahydropyranyl)oxymethyl-3-methylcarbonyl-9-fluorenone | 197 mg | O1C(CCCC1)OCC1=CC(=CC=2C3=CC=CC=C3C(C12)=O)C(=O)C | C21H20O4
solvent | H2SO4 | 5 ml | OS(=O)(=O)O | H2O4S
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-hydroxymethyl-3-methylcarbonyl-9-fluorenone | 135 mg | OCC1=CC(=CC=2C3=CC=CC=C3C(C12)=O)C(=O)C | C16H12O3
